US08865713B2
Step D: 2,4,5,6-Tetrachloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole.
A solution of 4,5,6-trichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole (0.388 g, 1.26 mmol) and THF (6 mL) was cooled to −78° C. in an acetone/dry ice bath. Lithium diisopropylamide (1.0 M solution in THF, 2.52 mL, 2.52 mmol) was added dropwise and the reaction mixture was stirred at −78° C. for 1 h. A solution of N-chlorosuccinimide (0.336 g, 2.52 mmol) and THF (2 mL) was added. The reaction mixture was warmed to 23° C. and stirred for 2 h. Saturated aqueous NH4Cl was added and the crude product was extracted with EtOAc. The combined organic layers were dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) to yield the titled compound as a mixture of regioisomers (0.267 g, 62%). MS (ESI/CI): mass calcd. for C11H10Cl4N2O2, 342.0; m/z found, 343.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 8.18 (s, 1H), 8.03 (s, 1H), 5.88 (d, J=5.8 Hz, 2H), 5.71 (s, 2H), 3.71-3.66 (m, 2H), 3.64-3.61 (m, 2H), 3.44-3.38 (m, 4H), 3.17 (t, J=1.7 Hz, 6H).

reactant | 4,5,6-trichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole | 1.26 mmol, 0.388 g | ClC1=C(C(=CC=2N(C=NC21)COCCOC)Cl)Cl | C11H11Cl3N2O2
reactant | Lithium diisopropylamide | 2.52 mmol, 1.0 M, 2.52 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-chlorosuccinimide | 2.52 mmol, 0.336 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2,4,5,6-Tetrachloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole | ClC1=NC2=C(N1COCCOC)C=C(C(=C2Cl)Cl)Cl | C11H10Cl4N2O2
